US05869500
2.44 g (5.5 mmol) of methyl 8-(4-benzyloxy-phenyl)-3-methyl-7-oxo-3,7-dihydro-imidazo[4,5-a]quinolizine-10-carboxylate in 50 ml of ethanol were treated with a solution of 1.4 g (21 mmol) of potassium hydroxide (content 86%) in 50 ml of water. After boiling under reflux for 4 hours 200 ml of water were added and the mixture was adjusted to pH 1-2 with 2N hydrochloric acid while cooling with ice. The precipitate obtained was filtered off, washed with water and dried. There were obtained 2.16 g (92%) of 8-(4-benzyloxy-phenyl)-3-methyl-7-oxo-3,7-dihydro-imidazo [4,5-a]quinolizine-10-carboxylic acid as yellow crystals with m.p. 227°-229° C.

reactant | methyl 8-(4-benzyloxy-phenyl)-3-methyl-7-oxo-3,7-dihydro-imidazo[4,5-a]quinolizine-10-carboxylate | 5.5 mmol, 2.44 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)OC)N=CN3C)=O | C26H21N3O4
reactant | potassium hydroxide | 21 mmol, 1.4 g | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 8-(4-benzyloxy-phenyl)-3-methyl-7-oxo-3,7-dihydro-imidazo [4,5-a]quinolizine-10-carboxylic acid | 2.16 g, 92% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)O)N=CN3C)=O | C25H19N3O4
